US08067408B2
To a solution of N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridine-5-yl]methyl}-N′-{[6-fluoro-3′-(hydroxymethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide (0.0997 g, 0.15 mmol) in DCM (1.0 mL) was added iodine (0.0381 g, 0.15 mmol), and PS-PPh3 (0.0818 g, 0.18 mmol). This mixture was stirred at room temperature for 28 h, filtered and concentrated to afford N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-fluoro-3′-(iodomethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide which was carried on to the next step of the reaction directly.

reactant | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridine-5-yl]methyl}-N′-{[6-fluoro-3′-(hydroxymethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | 0.15 mmol, 0.0997 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CO)CC | C38H41FN6O4
reactant | iodine | 0.15 mmol, 0.0381 g | II | I2
reactant | PPh3 | 0.18 mmol, 0.0818 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-fluoro-3′-(iodomethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CI)CC | C38H40FIN6O3
